US04567001
17α-Ethynyl-17β-hydroxy-6-methyl-16-methyleneandrosta-4,6-dien-3-one (IVA)
Acetylene saturated THF (45 ml, 4.2 equivalents) was cooled to -72° over 5 min while addition of acetylene continued. The acetylene bubbling was stopped and n-butyl lithium (1.55M, 16.6 ml, 4.0 equivalents) was added over 15 min keeping the temperature less than -65°, mostly at -68°. The mixture was cooled to -90° and added to 6-methyl-16-methyleneandrosta-4,6-diene-3,17-dione. (IIIA, Example 11, 2.0 g) in THF (10 ml) previously cooled to -105° via an insulated teflon canula over about 3 min. The mixture was exothermically warmed to -87° and was recooled to -90° (bath at -93°). After 3.5 hr TLC indicated the reaction was complete. Acetic acid (1.84 ml, 5 equivalents) was added in methanol (10 ml) previously cooled to -98°. The mixture was warmed to 20°-25° and phosphate buffer (20 ml) and ethyl acetate (20 ml) were added. The layers were separated. The organic layer was washed with buffer/saline (1/1). The aqueous layer was back extracted with ethyl acetate which was washed with saline. The organic extracts were combined, dried over sodium sulfate, filtered and concentrated under reduced pressure to an oil. Ethyl acetate was added along with a seed crystal and the mixture sat over night at 20°-25°, and then -20° for 4 hr. The crystals were obtained by filtration, washed with ethyl acetate/hexane: (1/1) to give the title compound.

reactant | Acetylene | 45 ml, 4.2 equivalents | C#C | C2H2
reactant | n-butyl lithium | 1.55M, 16.6 ml, 4.0 equivalents | C(CCC)[Li]
reactant | 6-methyl-16-methyleneandrosta-4,6-diene-3,17-dione | CC1=C[C@H]2[C@@H]3CC(C([C@@]3(C)CC[C@@H]2[C@]2(CCC(C=C12)=O)C)=O)=C | C21H26O2
reactant | Acetic acid | 1.84 ml, 5 equivalents | C(C)(=O)O | C2H4O2
reactant | phosphate | 20 ml | P(=O)([O-])([O-])[O-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 17α-Ethynyl-17β-hydroxy-6-methyl-16-methyleneandrosta-4,6-dien-3-one | C(#C)[C@]1([C@]2(C)[C@@H](CC1=C)[C@@H]1C=C(C3=CC(CC[C@]3(C)[C@H]1CC2)=O)C)O | C23H28O2
